US07115611B2
B] [rac]-3-(1-Chloro-butyl)-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine
0.276 g (0.892 mmol) of the above prepared [rac]-1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-butan-1-ol was dissolved in 4.3 ml of CH2Cl2 and treated dropwise at 0° C. with 0.13 ml (2 eq.) of SOCl2. The reaction mixture was kept at 0° C. for 5 Min. and at RT for 30 Min. Pouring onto crashed ice/NaHCO3, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents yielded 0.289 g of pure title compound as light yellow oil.

reactant | [rac]-1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-butan-1-ol | CC1=NC(=CC=C1C(CCC)O)C1=CC(=CC=C1)C(F)(F)F | C17H18F3NO
reactant | SOCl2 | 0.13 ml, 2 eq. | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 4.3 ml | C(Cl)Cl | CH2Cl2
product | [rac]-3-(1-Chloro-butyl)-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine | 0.289 g | ClC(CCC)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C | C17H17ClF3N
